US08133909B2
N-(2-Methyl-pyridin-4-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
In analogy to the procedure described for the synthesis example 43 (step 2), the title compound N-(2-methyl-pyridin-4-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide (MS m/e: 413.2 [M+H]+) was prepared from N-(2-methyl-pyridin-4-yl)-2-oxo-2-phenyl-acetamide and 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene.

reactant | N-(2-methyl-pyridin-4-yl)-2-oxo-2-phenyl-acetamide | CC1=NC=CC(=C1)NC(C(C1=CC=CC=C1)=O)=O | C14H12N2O2
reactant | 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene | BrCCC1=CC=C(C=C1)C(F)(F)F | C9H8BrF3
product | N-(2-methyl-pyridin-4-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | CC1=NC=CC(=C1)N(C(C(C1=CC=CC=C1)=O)=O)CCC1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O2
